US08138194B2
A mixture of 2-amino-4,5-diphenylfuran-3-carbonitrile (2.0 g) and formic acid (24 mL) was cooled to 0° C. and acetic anhydride (24 mL) was added dropwise. The resulting mixture was stirred for 1 h. The reaction mixture was then warmed to 100° C. and stirred for 16 h. The reaction mixture was cooled and water was added (40 mL). The precipitated was filtered and washed thoroughly with water and hexanes to give 5,6-diphenylfuro[2,3-d]pyrimidin-4(3H)-one (2.1 g, 95%). 1H NMR (300 MHz, CDCl3): δ 7.94 (s, 1H), 7.56-7.52 (m, 4H), 7.46-7.43 (m, 3H), 7.32-7.28 (m, 3H), 7.22 (s, 1H). LC-MS (ESI) m/z 289.1 (M+H).

reactant | 2-amino-4,5-diphenylfuran-3-carbonitrile | 2.0 g | NC=1OC(=C(C1C#N)C1=CC=CC=C1)C1=CC=CC=C1 | C17H12N2O
reactant | formic acid | 24 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 24 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
product | 5,6-diphenylfuro[2,3-d]pyrimidin-4(3H)-one | 2.1 g, 95% | C1(=CC=CC=C1)C1=C(OC=2N=CNC(C21)=O)C2=CC=CC=C2 | C18H12N2O2
